### PR TITLE
`mkseq` lemmas

### PR DESCRIPTION
**Pull request by eupp**
##### Motivation for this change

This small PR adds two lemmas related to `mkseq`: `mkseqS` and `mkseq_in_uniq`. 
The latter is a stronger version of `mkseq_uniq` (analogous to `map_inj_uniq`/`map_inj_in_uniq`).

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -2856,6 +2860,10 @@ Section MakeEqSeq.
 
 Variable T : eqType.
 
+Lemma mkseq_in_uniq (f : nat -> T) n : 
+  { in iota 0 n &, injective f } -> uniq (mkseq f n).
+Proof. by move/map_inj_in_uniq ->; apply: iota_uniq. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:2865]: I would suggest stating this using `reflect` since its converse also holds:
```suggestion
Lemma mkseq_uniqP (f : nat -> T) n :
  reflect {in iota 0 n &, injective f} (uniq (mkseq f n)).
Proof.
apply: (iffP idP); last by move/map_inj_in_uniq ->; apply: iota_uniq.
move=> /(uniqP (f 0)) Huniq i j; rewrite !mem_iota add0n !leq0n /= => Hi Hj fij.
by apply: Huniq; rewrite ?size_mkseq // !nth_mkseq.
Qed.
```

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -2856,6 +2860,14 @@ Section MakeEqSeq.
 
 Variable T : eqType.
 
+Lemma mkseq_uniqP (f : nat -> T) n :
+  reflect {in iota 0 n &, injective f} (uniq (mkseq f n)).
+Proof.
+apply: (iffP idP); last by move/map_inj_in_uniq ->; apply: iota_uniq.
+move=> /(uniqP (f 0)) Huniq i j; rewrite !mem_iota add0n !leq0n /= => Hi Hj fij.
+by apply: Huniq; rewrite ?size_mkseq // !nth_mkseq.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v:2868]: It would be better to use `gtn n` rather that `iota 0 n` as the injectivity domain, since this would avoid exposing users to the internals of `mkseq`. Perhaps
```suggestion
  reflect {in gtn n &, injective f} (uniq (mkseq f n)).
Proof.
apply: (equivP (uniqP (f 0))); rewrite size_mkseq.
by split=> injf i j lti ltj; have:= injf i j lti ltj; rewrite !nth_mkseq.
```

**Review by pi8027 — APPROVED** [review]
Could you rebase? Then this is good to go.

**Comment by eupp** [comment]
> Could you rebase? Then this is good to go.

Done!
